US05707776
11.8 g of sodium p-toluenesulfinate dihydrate were dissolved in 20 ml of water, and 11.3 g of α-naphthalenesulfonic acid chloride were added thereto and reacted for 24 hours at room temperature while stirring. 250 ml of water were added thereto, the precipitate formed were taken out by filtration, and this was recrystallized from a mixed solvent comprising benzene and ethanol. Thus, 6.5 g of α-naphthyl-p-methylphenyldisulfone (PAG 5-6) were obtained.

reactant | sodium p-toluenesulfinate dihydrate | 11.8 g | O.O.C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | α-naphthalenesulfonic acid chloride | 11.3 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | water | 20 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | α-naphthyl-p-methylphenyldisulfone | 6.5 g | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC(=C1)C)S(S(=O)(=O)C1=C(C=C(C=C1)C)C1=CC=CC2=CC=CC=C12)(=O)=O | C34H26O4S2
